US05863947
Tetrakis(triphenylphosphine)palladium [0] (40 mg) was added to a stirred mixture of 4-cyano-2-trifluoromethylsulphonylbenzaldehyde (0.45 g, 1.6 mmol), lithium chloride (0.2 g, 4.8 mmol) and tri-n-butylphenylstannane (0.55 ml, 1.7 mmol) in dried dioxan (10 ml) under nitrogen atmosphere. The resulting suspension was heated under reflux for 24 hours. The dark mixture was cooled, and aqueous potassium fluoride solution (30 ml) and ethyl acetate (30 ml) were added. After vigorous stirring, the black precipitate was filtered and the filtrate layers separated. The ethyl acetate solution was washed with brine (30 ml), dried, filtered and evaporated to a yellow semi-solid (0.72 g). Chromatography on flash silica eluting with chloroform gave 4-cyano-2-phenylbenzaldehyde as a white solid, m.p. 75° C.

reactant | 4-cyano-2-trifluoromethylsulphonylbenzaldehyde | 1.6 mmol, 0.45 g | C(#N)C1=CC(=C(C=O)C=C1)S(=O)(=O)C(F)(F)F | C9H4F3NO3S
reactant | lithium chloride | 4.8 mmol, 0.2 g | [Cl-].[Li+]
reactant | tri-n-butylphenylstannane | 1.7 mmol, 0.55 ml | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
reactant | potassium fluoride | 30 ml | [F-].[K+]
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-cyano-2-phenylbenzaldehyde | C(#N)C1=CC(=C(C=O)C=C1)C1=CC=CC=C1 | C14H9NO
